US08106064B2
3-Fluoro-5-(4-methoxy-benzylamino)-benzaldehyde (crude product) was dissolved in anhydrous ethanol (40 ml) and cooled in an ice bath. Sodium borohydride (800 mg, 21 mmol) was then added with stirring. After 1 hr., the mixture was diluted with methanol and excess ammonium chloride was added. After stirring for 1 hr. at room temperature, the mixture was evaporated in vacuo and coevaporated with methanol several times. The residue was purified by silica gel column chromatography (eluent, EA: hexane (from 1:4 to 1:1)) to afford 2.16 g (39%) of [3-fluoro-5-(4-methoxy-benzylamino)-phenyl]-methanol as a white solid. m.p. 93° C.

reactant | 3-Fluoro-5-(4-methoxy-benzylamino)-benzaldehyde | FC=1C=C(C=O)C=C(C1)NCC1=CC=C(C=C1)OC | C15H14FNO2
reactant | Sodium borohydride | 21 mmol, 800 mg | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
product | [3-fluoro-5-(4-methoxy-benzylamino)-phenyl]-methanol | 2.16 g, 39% | FC=1C=C(C=C(C1)NCC1=CC=C(C=C1)OC)CO | C15H16FNO2
